US05491145
Production of ethyl 4-chloro-2,2-dimethylbutyrate
To a solution of 22.2 ml of diisopropylamine in 150 ml of tetrahydrofuran being stirred, 93.6 ml of a 1.6 M solution of n-butyl lithium in hexane was added at -5° to 0° C., followed by stirring for 30 minutes. After the reaction mixture was cooled to -78° C. and 19.0 ml of ethyl isobutyrate was added dropwise to the mixture and stirred for 45 minutes. A solution of 11.9 ml of 1-bromo-2-chloroethane in 10 ml of tetrahydrofuran was added dropwise to the reaction mixture. After the reaction mixture was stirred at -78° C. for 1 hour and then at roomtemperature (15° to 20° C.) for 2 hours, an excess amount of an aqueous solution of ammonium chloride was added, followed by extractionwith ethyl acetate. After the extract was washed with water and dried over MgSO4, the solvent was distilled off; the residue was then distilled under reduced pressure, to yield 24.7 g of the title compound in the form of a colorless oily substance.

reactant | diisopropylamine | 22.2 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | ethyl isobutyrate | 19.0 ml | C(C(C)C)(=O)OCC | C6H12O2
reactant | 1-bromo-2-chloroethane | 11.9 ml | BrCCCl | C2H4BrCl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 4-chloro-2,2-dimethylbutyrate | 24.7 g | ClCCC(C(=O)OCC)(C)C | C8H15ClO2
